US08012966B2
2-[4-(2,3-Difluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-(2-dimethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 112 with 5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 4-(2,3-difluoro-phenyl)-1,3-dihydro-indol-2-one (prepared according to WO2002055517) as starting materials to give 2-[4-(2,3-difluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-(2-dimethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (45 mg, 61.6%) as a yellow solid.

reactant | 5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CN(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)C | C13H19N3O2
reactant | 4-(2,3-difluoro-phenyl)-1,3-dihydro-indol-2-one | FC1=C(C=CC=C1F)C1=C2CC(NC2=CC=C1)=O | C14H9F2NO
product | 2-[4-(2,3-difluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-(2-dimethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 45 mg, 61.6% | FC1=C(C=CC=C1F)C1=C2C(C(NC2=CC=C1)=O)=CC1=C(C=2C(N(CCC2N1)CCN(C)C)=O)C | C27H26F2N4O2
